US07098228B2
In analogy to the procedures described in examples 1 a] and 1 b], rac-2-ethoxy-3-(1H-indol-4-yl)-propionic acid ethyl ester was reacted with methanesulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl ester in N,N-dimethylformamide in the presence of sodium hydride to yield rac-2-ethoxy-3-{1-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl]-1H-indol-4-yl}-propionic acid ethyl ester, which was subsequently saponified to yield rac-2-ethoxy-3-{1-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl]-1H-indol-4-yl}-propionic acid as light yellow solid.

reactant | rac-2-ethoxy-3-(1H-indol-4-yl)-propionic acid ethyl ester | C(C)OC(C(CC1=C2C=CNC2=CC=C1)OCC)=O | C15H19NO3
reactant | methanesulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl ester | CC1=C(N=C(O1)C1=CC=CC=C1)CCOS(=O)(=O)C | C13H15NO4S
reactant | sodium hydride | [H-].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | rac-2-ethoxy-3-{1-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl]-1H-indol-4-yl}-propionic acid ethyl ester | C(C)OC(C(CC1=C2C=CN(C2=CC=C1)CCC=1N=C(OC1C)C1=CC=CC=C1)OCC)=O | C27H30N2O4
